US07696213B2
8-Cyclopentyl-4-methyl-2-(methylamino)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-6-ylboronic acid
To a stirred and cooled (−78° C.) solution of 6-bromo-8-cyclopentyl-4-methyl-2-(methylamino)-pyrido[2,3-d]pyrimidin-7(8H)-one (1.00 g, 2.94 mmol) and trimethylborate (1.40 mL, 12.6 mmol) in THF (60 mL) was added BuLi (9.5 mL, 1.6 M, 15.2 mmol). After stirring for 20 min, the mixture was quenched with small amount of 2 N HCl and water, extracted with EtOAc (3 times), dried and evaporated. The crude mixture was purified by silica gel chromatography to give the title compound (157.2 mg, 18%).

reactant | 6-bromo-8-cyclopentyl-4-methyl-2-(methylamino)-pyrido[2,3-d]pyrimidin-7(8H)-one | 2.94 mmol, 1.00 g | BrC1=CC2=C(N=C(N=C2C)NC)N(C1=O)C1CCCC1 | C14H17BrN4O
reactant | trimethylborate | 12.6 mmol, 1.40 mL | COB(OC)OC | C3H9BO3
reactant | BuLi | 15.2 mmol, 1.6 M, 9.5 mL | [Li]CCCC
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 8-Cyclopentyl-4-methyl-2-(methylamino)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-6-ylboronic acid | 157.2 mg, 18% | C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2C)NC)B(O)O)=O | C14H19BN4O3
